USRE038796E1
Production of (4S)-4-(N,N-dibenzylamino)-4-benzyl-3-oxobutanoic acid tert-butyl ester (IIa)
A solution (2.0M) (24 ml, 48 mmol) of LDA in heptane, THF and ethyl benzene was dissolved in 64 ml of anhydrous THF, and the mixed solution was cooled to −53° C. in an argon atmosphere. To this solution was added dropwise a solution of 5.8 g (50 mmols) of tert-butyl acetate in 12 ml of THF for approximately 15 minutes, while maintaining the temperature of from −45° C. to −50° C. After the completion of the dropwise addition, the mixture was stirred at −53° C. for 1 hour. Subsequently, a solution of 7.2 g (15 mmols, purity 90%) of N,N-dibenzyl-L-phenylalanine benzyl ester (Ia) in 8 ml of THF was added dropwise thereto for approximately 15 minutes while maintaining the temperature at from −48° C. to −52° C. After the completion of the dropwise addition, the reaction temperature was raised to −5° C. After three hours, a solution of 16.5 g of citric acid in 50 ml of water was added to the reaction solution to stop the reaction. The resulting mixture was extracted twice with ethyl acetate (100 ml and 50 ml), and the organic layer was washed with 20 ml of 10% citric acid, with 10 ml of a saturated aqueous solution of sodium chloride, with 5% sodium hydrogencarbonate aqueous solution (20 ml×4) and with 10 ml of a saturated aqueous solution of sodium chloride in this order. The organic layer was dried over anhydrous magnesium sulfate, and the filtrate was concentrated. The concentrate was purified through silica-gel column chromatography (eluent-mixture of n-hexane and ethyl acetate at a ratio of 4:1) to give 6.09 g (13.7 mmol) of the above-mentioned compound (IIa).

reactant | LDA | 48 mmol, 2.0M, 24 ml | [Li+].CC(C)[N-]C(C)C
reactant | tert-butyl acetate | 50 mmols, 5.8 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | N,N-dibenzyl-L-phenylalanine benzyl ester | 15 mmols, 7.2 g | C(C1=CC=CC=C1)OC([C@@H](N(CC1=CC=CC=C1)CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C30H29NO2
reactant | citric acid | 16.5 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | heptane | CCCCCCC | C7H16
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl benzene | C(C)C1=CC=CC=C1 | C8H10
solvent | THF | 64 ml | C1CCOC1 | C4H8O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | (4S)-4-(N,N-dibenzylamino)-4-benzyl-3-oxobutanoic acid tert-butyl ester | 13.7 mmol, 6.09 g | C(C)(C)(C)OC(CC([C@H](CC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O)=O | C29H33NO3
